US09382228B2
A mixture of crude 2-ethyl-3-((2-(1-methyl-1H-pyrazol-4-yl)pyridin-4-yl)oxy)-6-nitropyridine (1.038 g, 3.19 mmol) in MeOH (12 mL) and THF (12 mL) was treated with NH4Cl (6.83 g, 128 mmol), cooled to 0° C., treated portion-wise with zinc dust (2.08 g, 31.9 mmol) and stirred overnight as the cooling bath expired. The mixture was treated with EtOAc, the solids removed via filtration through diatomaceous earth, washed well with warm EtOAc and the filtrate concentrated to dryness. The residue was treated with EtOAc, heated to near-reflux, filtered to remove solids and the filtrate concentrated to dryness. The collected solids were treated again with EtOAc, heated to reflux and filtered hot to afford a white solid. The concentrated filtrate was purified via silica gel chromatography (MeOH/EtOAc) and combined with the solid isolated above to afford 6-ethyl-5-((2-(1-methyl-1H-pyrazol-4-yl)pyridin-4-yl)oxy)pyridin-2-amine (483 mg, 51%) as an off-white solid. 1H NMR (400 MHz, DMSO-d6): δ 8.30 (d, J=5.7 Hz, 1H), 8.22 (s, 1H), 7.93 (s, 1H), 7.18-7.16 (m, 1H), 7.12 (d, J=2.4 Hz, 1H), 6.50-6.49 (m, 1H), 6.36-6.34 (m, 1H), 5.95-5.93 (m, 2H), 3.84 (s, 3H), 2.40-2.38 (m, 2H), 1.04 (t, J=7.5 Hz, 3H); MS (ESI) m/z: 296.2 (M+H+).

reactant | 2-ethyl-3-((2-(1-methyl-1H-pyrazol-4-yl)pyridin-4-yl)oxy)-6-nitropyridine | 3.19 mmol, 1.038 g | C(C)C1=NC(=CC=C1OC1=CC(=NC=C1)C=1C=NN(C1)C)[N+](=O)[O-] | C16H15N5O3
reactant | NH4Cl | 128 mmol, 6.83 g | [NH4+].[Cl-]
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | MeOH | 12 mL | CO | CH4O
solvent | THF | 12 mL | C1CCOC1 | C4H8O
catalyst | zinc | 31.9 mmol, 2.08 g | [Zn] | Zn
product | 6-ethyl-5-((2-(1-methyl-1H-pyrazol-4-yl)pyridin-4-yl)oxy)pyridin-2-amine | 483 mg, 51% | C(C)C1=C(C=CC(=N1)N)OC1=CC(=NC=C1)C=1C=NN(C1)C | C16H17N5O
